US06919365B2
5-Methyl-1,3-bis-(2-naphthylsulfonyl)-5-phenylimidazolidine-2,4-dione (Compound 37)
5-Methyl-5-phenylimidazolidine-2,4-dione potassium salt (1.00 g) was suspended in tetrahydrofuran (10 mL), 2-naphthalenesulfonyl chloride (1.02 g) was added slowly, and the mixture was stirred at room temperature overnight. After the solvent was distilled off, ethyl acetate (100 mL) was added to the reaction solution, and the mixture was washed with 1N hydrochloric acid, an aqueous saturated sodium bicarbonate solution and a saturated brine in turn. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was distilled off. Further purification by silica gel chromatography (hexane:ethyl acetate=2:1) afforded 242 mg of white crystals.

reactant | 5-Methyl-5-phenylimidazolidine-2,4-dione potassium salt | 1.00 g | [K].CC1(C(NC(N1)=O)=O)C1=CC=CC=C1
reactant | 2-naphthalenesulfonyl chloride | 1.02 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 5-Methyl-1,3-bis-(2-naphthylsulfonyl)-5-phenylimidazolidine-2,4-dione | 242 mg | CC1(C(N(C(N1S(=O)(=O)C1=CC2=CC=CC=C2C=C1)=O)S(=O)(=O)C1=CC2=CC=CC=C2C=C1)=O)C1=CC=CC=C1 | C30H22N2O6S2
